US05840749
A chilled stirring solution of 9.5 g of 4-(4,10-dihydro-10-oxothieno[3,2-c][1]benzoxepin-8-yl)butanol in 200 ml of sieve dried pyridine was treated dropwise with 3.80 g of methanesulfonyl chloride and the addition funnel was rinsed with a few ml of methylene chloride. The stirring solution was allowed to equilibrate to room temperature overnight with the bath in place. The resulting solution was poured into 750 ml of water and was allowed to stand for 15 min. The solids were collected by filtration, and dried in vacuo overnight at 42°0 C. Concentration of the mother liquor produced additional solids which were combined with the first crop and dried to give a total of 9.09 g of crude material. A 2.0 g portion of the product was recrystallized from hexane/ethyl acetate to give 1.3 g of 4-(4,10-dihydro-10-oxothieno[3,2-c][1]benzoxepin-8-yl)butanol methanesulfonate, m.p. 97°-98° C.

reactant | 4-(4,10-dihydro-10-oxothieno[3,2-c][1]benzoxepin-8-yl)butanol | 9.5 g | O=C1C2=C(COC3=C1C=C(C=C3)CCCCO)C=CS2 | C16H16O3S
reactant | methanesulfonyl chloride | 3.80 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
product | 4-(4,10-dihydro-10-oxothieno[3,2-c][1]benzoxepin-8-yl)butanol methanesulfonate | 1.3 g | CS(=O)(=O)OCCCCC=1C=CC2=C(C(C3=C(CO2)C=CS3)=O)C1 | C17H18O5S2
